US09428470B2
E) tert-Butyl 5-(2-tert-butoxy-2-oxoethyl)-3-(3-hydroxy-5-methylphenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
A mixture of tert-butyl 3-(3-(benzyloxy)-5-methylphenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate (674 mg), 10% Pd/C (containing about 55% water, 67 mg), and THF (7 mL) was stirred overnight at room temperature in a hydrogen atmosphere. The catalyst was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (500 mg).

reactant | tert-butyl 3-(3-(benzyloxy)-5-methylphenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 674 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C28H35NO6
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 67 mg | [Pd] | Pd
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | tert-Butyl 5-(2-tert-butoxy-2-oxoethyl)-3-(3-hydroxy-5-methylphenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 500 mg | C(C)(C)(C)OC(CC1(CC(=NO1)C1=CC(=CC(=C1)C)O)C(=O)OC(C)(C)C)=O | C21H29NO6
